US05538940
93 g (0.68 mol) of potassium carbonate are added to a stirred mixture of 189 g (0.61 mol) of methyl 7-bromo-1-naphthoylacetate and 500 ml of N,N'-dimethylpropyleneurea, and the mixture is stirred at 40° C. for 2 h. It is subsequently cooled to 0°-5° C., and a mixture of 85 g (0.68 mol) of dimethyl sulfate and 50 ml of N,N'-dimethylpropyleneurea is added dropwise. The mixture is then stirred at 40° C. for a further 2 h, and subsequently water and methyl tert-butyl ether are added. The aqueous phase is extracted once more with methyl tert-butyl ether, and the combined organic phases are dried over Na2SO4 and concentrated. The residue is taken up in 500 ml of N,N'-dimethylpropyleneurea, and 2.7 g (0.11 mol) of NaH are added. The mixture is stirred at room temperature for 15 h. Subsequently, 20 ml of methanol are added and the mixture is diluted with water and extracted with methyl tert-butyl ether. The organic phase is washed with water, dried over Na2SO4 and concentrated. The residue is recrystallized from methanol to give 102 g (52%) of methyl (E)-3-methoxy-3-(7-bromo-1-naphthyl)acrylate in the form of colorless crystals of melting point 111°-113° C.

reactant | potassium carbonate | 0.68 mol, 93 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 7-bromo-1-naphthoylacetate | 0.61 mol, 189 g | BrC1=CC=C2C=CC=C(C2=C1)C(=O)CC(=O)OC | C14H11BrO3
reactant | dimethyl sulfate | 0.68 mol, 85 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | NaH | 0.11 mol, 2.7 g | [H-].[Na+]
solvent | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | N,N'-dimethylpropyleneurea | 50 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | N,N'-dimethylpropyleneurea | 500 ml | CN1CCCN(C1=O)C | C6H12N2O
product | methyl (E)-3-methoxy-3-(7-bromo-1-naphthyl)acrylate | 102 g, 52% | CO/C(=C/C(=O)OC)/C1=CC=CC2=CC=C(C=C12)Br | C15H13BrO3
